US07557127B2
To a solution of ethyl (2E)-3-{5-chloro-6-[(1-{[(4-chlorophenyl)amino]carbonyl}-4-piperidyl) amino]-3-pyridyl}acrylate (363 mg) in THF (3 ml) and MeOH (3 ml) was added 1N NaOH aq (2.35 ml), the mixture was stirred at 80° C. for 1 hour. The pH of the mixture was adjusted to ca. 4.5 with 1N HCl aq. The solution was evaporated under reduced pressure to give crude 3-{5-Chloro-6-[1-(4-chloro-phenylcarbamoyl)-piperidin-4-ylamino]-pyridin-3-yl}-acrylic acid. To a suspension of crude 3-{5-Chloro-6-[1-(4-chloro-phenylcarbamoyl)-piperidin-4-ylamino]-pyridin-3-yl}-acrylic acid (247 mg) in DMF (3 ml) was added O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (73.1 mg), EDCI (96.9 mg), HOBt (84.3 mg,), the mixture was stirred at 23° C. for 8 hours. The mixed solution was poured into a mixture of water (20 ml) and AcOEt (20 ml). The organic layer was separated, washed with water twice and brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluted with 5% MeOH in dichloromethane to give 4-[(3-chloro-5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridyl)amino]-N-(4-chlorophenyl)-1-piperidinecarboxamide (246 mg).

reactant | ethyl (2E)-3-{5-chloro-6-[(1-{[(4-chlorophenyl)amino]carbonyl}-4-piperidyl) amino]-3-pyridyl}acrylate | 363 mg | ClC=1C=C(C=NC1NC1CCN(CC1)C(=O)NC1=CC=C(C=C1)Cl)/C=C/C(=O)OCC | C22H24Cl2N4O3
reactant | NaOH | 1N, 2.35 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | 3-{5-Chloro-6-[1-(4-chloro-phenylcarbamoyl)-piperidin-4-ylamino]-pyridin-3-yl}-acrylic acid | 247 mg | ClC=1C=C(C=NC1NC1CCN(CC1)C(NC1=CC=C(C=C1)Cl)=O)C=CC(=O)O | C20H20Cl2N4O3
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 73.1 mg | O1C(CCCC1)ON | C5H11NO2
reactant | EDCI | 96.9 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 84.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | MeOH | 3 ml | CO | CH4O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | AcOEt | 20 ml | CCOC(=O)C | C4H8O2
solvent | water | 20 ml | O | H2O
product | 4-[(3-chloro-5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridyl)amino]-N-(4-chlorophenyl)-1-piperidinecarboxamide | 246 mg | ClC=1C(=NC=C(C1)\C=C\C(NOC1OCCCC1)=O)NC1CCN(CC1)C(=O)NC1=CC=C(C=C1)Cl | C25H29Cl2N5O4
